US07939524B2
a) (7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic Acid
A solution of (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester (prepared as described in US patent application US 2008/0031852, 600 mg, 1.666 mmol) in methanol (30 mL) was cooled to 0° C. in an ice-water bath and treated with 2.0 M aqueous lithium hydroxide solution (4.17 mL, 8.332 mmol). The reaction mixture was allowed to warm to 25° C. and stirred for 1 h. The methanol was removed in vacuo and the reaction mixture was poured into 0.5 M aqueous hydrochloric acid solution (20 mL) on ice, extracted with ethyl acetate (3×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford an orange solid. The crude solid was triturated with diethyl ether to afford the desired product, (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid (409 mg, 1.232 mmol, 73.9%), as a yellow solid. LC-MS calcd for C11H12N2O6S2 332.4, found 333.0 [M+H+].

reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester | 1.666 mmol, 600 mg | C(C)OC(CC1=CS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C13H16N2O6S2
reactant | lithium hydroxide | 8.332 mmol, 2.0 M, 4.17 mL | [OH-].[Li+]
solvent | methanol | 30 mL | CO | CH4O
product | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid | 1.232 mmol, 409 mg, 73.9% | CS(=O)(=O)NC1=CC2=C(NC(=CS2(=O)=O)CC(=O)O)C=C1 | C11H12N2O6S2
